data/oMe_Silver.jsonl
{"reaction_id": "NR-207_1-C(C)C_2-C(F)(F)F_3-C1CCCCC1_4-c1cnccc1","level": "medium","name": "Oppenauer Oxidation","reactants_smiles": ["O=C(C(C)C)(C(F)(F)F)","C(C1CCCCC1)(c1cnccc1)O"],"products_smiles": ["OC(C(C)C)(C(F)(F)F).C(C1CCCCC1)(=O)c1cnccc1"],"conditions": "Al(Oi-Pr)3","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(C1CCCCC1)(c1cnccc1)[OH+][Al-](OC(C)C)(OC(C)C)OC(C)C","step_weight": 0,"rationale": "The alcohol oxygen donates a lone pair to the Lewis acidic aluminum center, increasing polarization of the O–H bond and aligning the substrate for subsequent hydride transfer."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C1CCCCC1)(c1cnccc1)[O][Al](OC(C)C)OC(C)C","step_weight": 0,"rationale": "Proton transfer to an alkoxide ligand generates an aluminum-bound alkoxide, enhancing nucleophilicity at oxygen and stabilizing the complex for rearrangement."},{"step": 3,"type": "rearrangement","subtype": "hydride_shift","intermediate_smiles": "C(C1CCCCC1)(c1cnccc1)[O][Al-](OC(C)C)([O+]=C(C(C)C)(C(F)(F)F))OC(C)C","step_weight": 0,"rationale": "Hydride shifts from the α-carbon of the coordinated alcohol to the electrophilic carbonyl carbon of the acceptor, driven by the stability of the resulting carbonyl and facilitated by aluminum coordination."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "OC(C(C)C)(C(F)(F)F).C(C1CCCCC1)(=O)c1cnccc1","step_weight": 0,"rationale": "Product ketone and alcohol are released as aluminum–oxygen bonds are cleaved, favored by the stability of the neutral products and regeneration of the catalyst."}],"description": "In the Oppenauer oxidation, the aluminum isopropoxide catalyst coordinates to the alcohol, activating it for hydride transfer to a more electrophilic carbonyl acceptor. The reaction proceeds due to the thermodynamic drive toward forming a more stable carbonyl compound, with aluminum facilitating both activation and hydride migration."}
{"reaction_id": "NR-314_1-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_2-C(C)(C)C_3-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_4-C(F)(F)F","level": "medium","name": "Upjohn Dihydroxylation","reactants_smiles": ["C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(C)(C)C)=C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(F)(F)F)","C[N+]1(CCOCC1)[O-]"],"products_smiles": ["C(O)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(C)(C)C)C(O)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(F)(F)F)"],"conditions": "cat. OsO4, NMO, H2O","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "C1(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(C)(C)C)O[Os](=O)(=O)OC1(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(F)(F)F)","step_weight": 0,"rationale": "The alkene’s π electrons coordinate to electrophilic Os(VIII) in OsO4, forming a cyclic osmate ester via concerted [3+2] cycloaddition, favored by strong osmium–oxygen π-acceptor interactions and minimal steric hindrance in the transition state."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(O)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(C)(C)C)C(O)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(F)(F)F)","step_weight": 0,"rationale": "Water attacks the electrophilic osmium-bound carbons, cleaving the Os–O–C bonds; the good leaving ability of the osmium species and relief of ring strain drive formation of the cis-diol."},{"step": 3,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "O=[Os](=O)(=O)=O","step_weight": 0,"rationale": "NMO oxidizes Os(VI) back to Os(VIII) via single-electron transfer, driven by N–O bond cleavage and the high thermodynamic stability of the reoxidized osmium species, allowing catalytic turnover."}],"description": "The alkene undergoes syn-dihydroxylation via OsO4-mediated [3+2] cycloaddition to form a cyclic osmate ester. Hydrolysis releases the cis-diol, and NMO reoxidizes Os(VI) to Os(VIII), enabling catalytic turnover under mild aqueous conditions."}
